US07973051B2
v) N-[(5-bromo-4-ethyl-1,3-thiazol-2-yl)carbamoyl]-5-methylthiophene-3-sulfonamide
5-Methyl-thiophene-3-sulfonic acid amide (0.0496 g, 0.28 mmol) was dissolved in 1.5 mL of abs. acetonitrile and treated successively with phenyl chloroformate (0.0443 g, 1.01 eq.) and triethylamine (0.097 mL, 2.5 eq.), and the mixture kept at ambient temperature for 1.25 h. The above prepared 5-bromo-4-ethyl-thiazol-2-ylamine (0.061 g, 1.05 eq.), dissolved in a tiny amount of acetonitrile, was then added, and the mixture heated to 55-60° C. over night. Cooling, pouring onto crashed ice/NH4Cl, twofold extraction with ethyl acetate, washing with water, drying over sodium sulfate, and evaporation of the solvents, followed by flash chromatography (SiO2, MeOH/ethyl acetate=1/99), yielded eventually, after precipitation from ethyl acetate/heptane, 0.038 g of the title compound as off-white solid.

reactant | 5-Methyl-thiophene-3-sulfonic acid amide | 0.28 mmol, 0.0496 g | CC1=CC(=CS1)S(=O)(=O)N | C5H7NO2S2
reactant | phenyl chloroformate | 0.0443 g, 1.01 eq. | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | triethylamine | 0.097 mL, 2.5 eq. | C(C)N(CC)CC | C6H15N
reactant | 5-bromo-4-ethyl-thiazol-2-ylamine | 0.061 g, 1.05 eq. | BrC1=C(N=C(S1)N)CC | C5H7BrN2S
solvent | acetonitrile | C(C)#N | C2H3N
product | N-[(5-bromo-4-ethyl-1,3-thiazol-2-yl)carbamoyl]-5-methylthiophene-3-sulfonamide | BrC1=C(N=C(S1)NC(=O)NS(=O)(=O)C1=CSC(=C1)C)CC | C11H12BrN3O3S3
